US07842685B2
In a reactor bottle (trimethylsilyl)diazomethane, 2.0 M in diethyl ether (2.4 mL, 4.8 mmol) was added to a mixture of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-phenylvinyl)-benzo[d]thiazole (0.650 g, 1.6 mmol), in anhydrous dioxane 15.00 mL. The reaction mixture was heated to 150° C. for 18 h. At which time the crude reaction mixture was concentrate in vacuo and purified by silica gel chromatography to afford as a mixture of isomers 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-phenyl-2 (trimethylsilyl)cyclopropyl)benzo[d]thiazole. MS (ESI) m/z: Calculated: 503.2; Observed: 504.0 (M++1).

reactant | (trimethylsilyl)diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | diethyl ether | 4.8 mmol, 2.4 mL | C(C)OCC | C4H10O
reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-phenylvinyl)-benzo[d]thiazole | 1.6 mmol, 0.650 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C(=C)C2=CC=CC=C2)F | C25H20FNO2S
solvent | dioxane | 15.00 mL | O1CCOCC1 | C4H8O2
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-phenyl-2 (trimethylsilyl)cyclopropyl)benzo[d]thiazole | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C2(C(C2)[Si](C)(C)C)C2=CC=CC=C2)F | C29H30FNO2SSi
